simulator lang=spectre
global 0

ahdl_include "../submission/cdac_calibration.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=5n rise=100p fall=100p width=2n period=8n
Vrst (rst 0) vsource type=pwl wave=[0 0.9 14n 0.9 14.2n 0 220n 0]
Verr (err 0) vsource type=pwl wave=[0 0.9 86n 0.9 86.2n 0 202n 0 202.2n 0.9 220n 0.9]
XDUT (clk rst err trim) cdac_calibration

tran tran stop=220n maxstep=200p
save clk rst err trim
